2161-04-01 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 86 year old man with Hep C cirrhosis, metastatic
   prostate cancer and history of GI bleeding, presenting with new episode
   of hematemesis, in fair condition.
   24 Hour Events:
 ENDOSCOPY - At [**2161-4-1**] 12:00 AM
 EKG - At [**2161-4-1**] 05:50 AM
   Transiently c/o CP, then resolved. EKG unchanged.
EGD [**3-31**]: Normal esophagus.
Stomach: Contents: Red blood was seen in the cardia, fundus andproximal body of
the stomach. Other Adherent clot and active bleeding at the cardia. Four injecti
ons with a total of 9cc Epinephrine 1/[**Numeric Identifier **] were applied for hemostasis with suc
cess.
Duodenum: Normal duodenum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2161-3-31**] 11:40 PM
   Fentanyl - [**2161-3-31**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 67 (67 - 91) bpm
   BP: 152/72(90) {142/58(78) - 202/91(108)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    525 mL
                                                                    932 mL
   PO:
             TF:
   IVF:
                                                                    125 mL
                                                                    932 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    640 mL
   Urine:
                                                                     80 mL
                                                                    640 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, elderly man in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. Edentulous.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB, crescendo descrescendo.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: +BS. Soft, NT, ND.  No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox2 (not to date). Appropriate. CN 2-12 grossly intact.
   Preserved sensation throughout. 5/5 strength throughout. [**1-9**]+ reflexes,
   equal BL. Normal coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   93 K/uL
   9.3 g/dL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   26.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
   WBC
   4.6
   Hct
   29.8
   26.1
   Plt
   93
   Cr
   0.9
   0.9
   Glucose
   106
   102
   Other labs: ALT / AST:44/43, Alk Phos / T Bili:86/0.4, Albumin:3.5
   g/dL, LDH:266 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   # Hematemesis: Likely due to an ulcer versus radiation esophagitis
   versus a variceal bleed. Given the pt's history of GE jxn bleeding in
   the past, suspect another lesion at this site to be the source of the
   bleeding. Per the patient's HCP and daughter [**Name (NI) 5324**], the pt is Jehovah
   Witness and would not want blood products.
   - Confirmed JW status with patient
   - PPI gtt per GI recs
   - Maintain two 18 gauge antecubital IVs
   - Telemetry to monitor tachycardia
   - surgery following
   # Anemia: The pt's baseline hct is 33-34, but the pt may have had acute
   blood loss secondary to bleed which may not be reflected in the CBC.
   There may also be a component of ACD secondary to malignancy.
   - Trend hct q8h
   - See above treatment plan for evaluation of likely source of bleeding
   # Leukopenia, Thrombocytopenia: Likely myelosuppression secondary to
   metastatic prostate cancer, but counts are at the pt's recent baseline
   (since 5/[**2160**]).
   - Continue to trend
   # Hypertension: Hold home regimen (toprol, lasix) in order to follow
   tachycardia. Hold lisinopril as the pt may develop hypotension in the
   setting of bleeding.
   - Restart lisinopril, metoprolol, lasix as the pt stabilizes.
   # CAD: Hold aspirin.
   # Metastatic prostate cancer: Currently s/p XRT to spine.
   - Outpatient f/u
   - Management per primary oncologist
   - Continue BPH meds
   # Depression: Continue home celexa and trazodone.
   # Hepatitis C: Not active currently. Unclear if pt has a physician who
   manages his Hep C.
   - Outpatient follow up.
   # Atrial fibrillation: Currently in sinus rhythm.
   - Not anticoagulated.
   - Given GI bleed agree with plan no to start anticoagulation.
   FEN: NPO for now until GI clearance
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen per home regimen
   -Pain management with tylenol per home regimen
   ACCESS: PIV's
   CODE STATUS: full; however per daughter pt is Jehovah Witness and does
   not was blood products.
   EMERGENCY CONTACT: Daughter (and HCP) [**Name (NI) 5324**]. [**Telephone/Fax (1) 5325**].
   DISPOSITION: ICU for now, if hct stable 24h post EGD will transfer to
   floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-3-31**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-04-01 09:06:00 Physician Attending Progress Note
Chief Complaint: Hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 y.o. man who is a Jehovah's Witness, with Hep C, diastolic
   dysfunction, Afib, pancytopenia, prior documentation of GE junction
   tear [**4-15**], PD, metastatic prostate cancer tranferred from NH with
   hematemesis.  Nonclearing NGT lavage. Hct 31
   24 Hour Events:
 ENDOSCOPY - At [**2161-4-1**] 12:00 AM - normal esophagus, blood in
   stomach with clot at GE junction, active bleeding at the cardia. ,
   injected with epinephrine.
   No bowel movements.
                               History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2161-3-31**] 11:40 PM
   Fentanyl - [**2161-3-31**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: No(t) Emesis, No furrther hematemesis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-4-1**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 67 (64 - 91) bpm
   BP: 149/69(90) {142/58(78) - 202/91(108)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    525 mL
                                                                    947 mL
   PO:
             TF:
   IVF:
                                                                    125 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    910 mL
   Urine:
                                                                     80 mL
                                                                    910 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): to person and place, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   93 K/uL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   26.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
   WBC
   4.6
   Hct
   29.8
   26.1
   Plt
   93
   Cr
   0.9
   0.9
   Glucose
   106
   102
   Other labs: PT / PTT / INR://1.2, ALT / AST:44/43, Alk Phos / T
   Bili:86/0.4, Albumin:3.5 g/dL, LDH:266 IU/L, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   ECG: NSR with flattened T-waves in lateral leads, biphasic T-waves.
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB), active bleeding with
   adherent clot seen at the cardia with hemostasis obtained with
   epinephrine injections at the time of the EGD.  Continues on PPI drip,
   remains NPO, getting maintenance fluids.  The patient does not want
   blood products given his religious beliefs.  Remains hemodynamically
   stable.  Holding ASA. Patient has erosions, cannot rule out mass given
   obscured by blood and clot.   Will space out CBC checks given don't
   want to contribute further to anemia with phlebotomy.
 HYPERTENSION:  Continue to hold antihypertensive meds in setting of
   GIB.
 METASTATIC PROSTATE CANCER:  Outpaitent followup planned giving
   rising PSA. Lidocaine patch for bone pain.
 PANCYTOPENIA of unclear etiology.  Other counts stable.  Will follow
   labs.
 HEPATITIS C:  Tranaminases unremarkable, coags normal.
   ICU Care
   Nutrition:
   Comments: NPO in setting of GIB
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-3-31**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes

2161-04-02 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 86 year old man with Hep C cirrhosis, metastatic
   prostate cancer and history of GI bleeding, presenting with new episode
   of hematemesis, in fair condition.
   24 Hour Events:
   Hct stable 26.1, 25.1, 24.7. Having some abdominal discomfort but no
   bloody bowel movements.
   Surgery requested ethics consult re: if rebleeds, take to surgery or
   not, knowing surgery would be high mortality risk.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 71 (57 - 78) bpm
   BP: 175/74(100) {114/46(63) - 175/76(100)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,228 mL
                                                                  1,012 mL
   PO:
             TF:
   IVF:
                                                                  3,228 mL
                                                                  1,012 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    625 mL
   Urine:
                                                                  2,600 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, elderly man in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. Edentulous.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB, crescendo descrescendo.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: +BS. Soft, NT, ND.  No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox2 (not to date). Appropriate. CN 2-12 grossly intact.
   Preserved sensation throughout. 5/5 strength throughout. [**1-9**]+ reflexes,
   equal BL. Normal coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   .
   Labs / Radiology
   95 K/uL
   8.9 g/dL
   77 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   141 mEq/L
   24.7 %
   3.1 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
                             [**2161-4-1**]  11:39 AM
                             [**2161-4-1**]  05:36 PM
                             [**2161-4-2**]  12:35 AM
                             [**2161-4-2**]  05:11 AM
   WBC
   4.6
   3.1
   Hct
   29.8
   26.1
   25.1
   24.7
   26.8
   24.7
   Plt
   93
   95
   Cr
   0.9
   0.9
   0.8
   Glucose
   106
   102
   77
   Other labs: ALT / AST:46/42, Alk Phos / T Bili:97/0.4, Albumin:3.3
   g/dL, LDH:143 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   # Hematemesis: Likely due to an ulcer versus radiation esophagitis
   versus a variceal bleed. Given the pt's history of GE jxn bleeding in
   the past, suspect another lesion at this site to be the source of the
   bleeding. Per the patient's HCP and daughter [**Name (NI) 5324**], the pt is Jehovah
   Witness and would not want blood products.
   - Confirmed JW status with patient
   - PPI gtt per GI recs
   - Maintain two 18 gauge antecubital IVs
   - Telemetry to monitor tachycardia
   - surgery following
   - plan for re-scope per GI at 2:30p
   # Anemia: The pt's baseline hct is 33-34, but the pt may have had acute
   blood loss secondary to bleed which may not be reflected in the CBC.
   There may also be a component of ACD secondary to malignancy.
   - Trend hct q8h
   - See above treatment plan for evaluation of likely source of bleeding
   # Leukopenia, Thrombocytopenia: Likely myelosuppression secondary to
   metastatic prostate cancer, but counts are at the pt's recent baseline
   (since 5/[**2160**]).
   - Continue to trend
   # Hypertension: Hold home regimen (toprol, lasix) in order to follow
   tachycardia. Hold lisinopril as the pt may develop hypotension in the
   setting of bleeding.
   - Restart lisinopril, metoprolol, lasix as the pt stabilizes.
   # CAD: Hold aspirin.
   # Metastatic prostate cancer: Currently s/p XRT to spine.
   - Outpatient f/u
   - Management per primary oncologist
   - Continue BPH meds
   # Depression: Continue home celexa and trazodone.
   # Hepatitis C: Not active currently. Unclear if pt has a physician who
   manages his Hep C.
   - Outpatient follow up.
   # Atrial fibrillation: Currently in sinus rhythm.
   - Not anticoagulated.
   - Given GI bleed agree with plan no to start anticoagulation.
   FEN: NPO for now until GI clearance
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen per home regimen
   -Pain management with tylenol per home regimen
   ACCESS: PIV's
   CODE STATUS: full; however per daughter pt is Jehovah Witness and does
   not want blood products.
   EMERGENCY CONTACT: Daughter (and HCP) [**Name (NI) 5324**]. [**Telephone/Fax (1) 5325**].
   DISPOSITION: ICU for now,  will transfer to floor post EGD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-3-31**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-04-02 11:14:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Metastatic prostate cancer
   UGIB
   24 Hour Events:
   Bowel movement by report, nonbloody, no reported melena
                        History obtained from Patient, poor historian
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, low grade fever
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Gastrointestinal: epigastric discomfort
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-4-2**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 73 (57 - 78) bpm
   BP: 167/71(95) {114/46(63) - 175/76(100)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,229 mL
                                                                  1,654 mL
   PO:
             TF:
   IVF:
                                                                  3,229 mL
                                                                  1,654 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    885 mL
   Urine:
                                                                  2,600 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                    769 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   95 K/uL
   77 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   141 mEq/L
   24.7 %
   3.1 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
                             [**2161-4-1**]  11:39 AM
                             [**2161-4-1**]  05:36 PM
                             [**2161-4-2**]  12:35 AM
                             [**2161-4-2**]  05:11 AM
   WBC
   4.6
   3.1
   Hct
   29.8
   26.1
   25.1
   24.7
   26.8
   24.7
   Plt
   93
   95
   Cr
   0.9
   0.9
   0.8
   Glucose
   106
   102
   77
   Other labs: ALT / AST:46/42, Alk Phos / T Bili:97/0.4, Albumin:3.3
   g/dL, LDH:143 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB) with documented active
   bleeding and adherent clot on EGD at admission.  Hct has remained
   stable.  No reported melena.  Notes mild abdominal discomfort albeit
   exam benign.  Denies nausea.  Will continue IV protonix, monitoring
   CBCs, keep NPO.  GI to follow for planned repeat EGD. Holding beta
   blocker.  IR aware of the patient in the event that he does rebleed,
   will consider angiography.
 ANEMIA secondary to blood loss.  Stable.
 HYPERTENSION:  Continuing to hold meds in setting of GIB.
 CAD:  Holding ASA.  Denies chest pain.
 PARKINSON'S DISEASE:  Slightly increased tremor this morning.  Will
   restart meds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2161-04-03 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   24 Hour Events:
 ENDOSCOPY - At [**2161-4-2**] 02:58 PM
   - GI scoped pt ant found: ulcer at cardia, clot vs. nodule @
   squamocolumnar jxn and esophagitis - rec: PPI [**Hospital1 **], carafate, adv to
   clear liquid diet
   - Surgery wanted ethics consult- for scenario if pt decompensates,
   since if acutely decompensates chances would be low to survive in OR
   w/o [**Last Name (LF) 1056**], [**First Name3 (LF) **] would we take him.
   - From this conversation sugery decided that in an emergency situation
   we should place [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]. Called GI who said [**Last Name (un) **] would be
   contraindicated in him, and would instead need emergent endoscopic tx
   (so we would call GI emergently if decompensated)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2161-4-2**] 02:35 PM
   Fentanyl - [**2161-4-2**] 02:35 PM
   Pantoprazole (Protonix) - [**2161-4-2**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-3**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 61 (61 - 90) bpm
   BP: 143/63(82) {105/62(80) - 180/97(109)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,191 mL
                                                                  1,135 mL
   PO:
                                                                    150 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,041 mL
                                                                    895 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,900 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   GENERAL: Pleasant, elderly man in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. Edentulous.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB, crescendo descrescendo.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: +BS. Soft, NT, ND.  No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox2 (not to date). Appropriate. CN 2-12 grossly intact.
   Preserved sensation throughout. 5/5 strength throughout. [**1-9**]+ reflexes,
   equal BL. Normal coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   87 K/uL
   7.3 g/dL
   68 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.0 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   20.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
                             [**2161-4-1**]  11:39 AM
                             [**2161-4-1**]  05:36 PM
                             [**2161-4-2**]  12:35 AM
                             [**2161-4-2**]  05:11 AM
                             [**2161-4-2**]  07:24 PM
                             [**2161-4-3**]  04:11 AM
   WBC
   4.6
   3.1
   2.2
   Hct
   29.8
   26.1
   25.1
   24.7
   26.8
   24.7
   25.1
   20.4
   Plt
   93
   95
   87
   Cr
   0.9
   0.9
   0.8
   0.7
   Glucose
   106
   102
   77
   68
   Other labs: ALT / AST:46/42, Alk Phos / T Bili:97/0.4, Albumin:3.3
   g/dL, LDH:143 IU/L, Ca++:6.8 mg/dL, Mg++:1.3 mg/dL, PO4:2.3 mg/dL
   Imaging: EGD [**4-2**]
   Findings: Esophagus:
    Mucosa: Erythema, erosion and congestion of the mucosa were noted in
   the gastroesophageal junction. These findings are compatible with
   esophagitis.
    Protruding Lesions A protruding clot vs. nodule was seen on the
   esophageal side of the squamocolumnar junction.
    Excavated Lesions An ulcer with an adhering clot and a nearby visible
   vessel was seen in the cardia, without active bleeding.
   Stomach: Normal stomach.
   Duodenum: Normal duodenum.
   Impression: Esophageal nodule
   Esophageal ulcer
   Erythema, erosion and congestion in the gastroesophageal junction
   compatible with esophagitis
   Otherwise normal EGD to second part of the duodenum
   Recommendations: Differential includes pill, peptic esophagitis.
   Neoplasm or metastatic prostate cancer, with the latter being a more
   remote possibility.
   Continue twice daily high dose PPI (Pantoprazole 40 b.i.d.)
   Start carafate slurry b.i.d.
   Ok to start clear liquids.
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   # Hematemesis: Likely due to an ulcer versus radiation esophagitis
   versus a variceal bleed. Given the pt's history of GE jxn bleeding in
   the past, suspect another lesion at this site to be the source of the
   bleeding. Per the patient's HCP and daughter [**Name (NI) 5324**], the pt is Jehovah
   Witness and would not want [**Name (NI) 1056**] products.
   - Confirmed JW status with patient
   - PPI gtt per GI recs
   - Maintain two 18 gauge antecubital IVs
   - Telemetry to monitor tachycardia
   - surgery following
   - plan for re-scope per GI at 2:30p
   # Anemia: The pt's baseline hct is 33-34, but the pt may have had acute
   [**Name (NI) 1056**] loss secondary to bleed which may not be reflected in the CBC.
   There may also be a component of ACD secondary to malignancy.
   - Trend hct q8h
   - See above treatment plan for evaluation of likely source of bleeding
   # Leukopenia, Thrombocytopenia: Likely myelosuppression secondary to
   metastatic prostate cancer, but counts are at the pt's recent baseline
   (since 5/[**2160**]).
   - Continue to trend
   # Hypertension: Hold home regimen (toprol, lasix) in order to follow
   tachycardia. Hold lisinopril as the pt may develop hypotension in the
   setting of bleeding.
   - Restart lisinopril, metoprolol, lasix as the pt stabilizes.
   # CAD: Hold aspirin.
   # Metastatic prostate cancer: Currently s/p XRT to spine.
   - Outpatient f/u
   - Management per primary oncologist
   - Continue BPH meds
   # Depression: Continue home celexa and trazodone.
   # Hepatitis C: Not active currently. Unclear if pt has a physician who
   manages his Hep C.
   - Outpatient follow up.
   # Atrial fibrillation: Currently in sinus rhythm.
   - Not anticoagulated.
   - Given GI bleed agree with plan no to start anticoagulation.
   FEN: NPO for now until GI clearance
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen per home regimen
   -Pain management with tylenol per home regimen
   ACCESS: PIV's
   CODE STATUS: full; however per daughter pt is Jehovah Witness and does
   not want [**Year (4 digits) 1056**] products.
   EMERGENCY CONTACT: Daughter (and HCP) [**Name (NI) 5324**]. [**Telephone/Fax (1) 5325**].
   DISPOSITION: ICU for now,  will transfer to floor post EGD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-4-2**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-04-03 11:31:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2161-4-2**] 02:58 PM
   Hemodynamically stable overnight, actually hypertensive
   Hct check indicated drop to 20 albeit upon repeat Hct was 25, seems
   spurious
   Patient lying comfortably in bed at 20 degrees, vitals stable, notes
   chest pain
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2161-4-2**] 02:35 PM
   Fentanyl - [**2161-4-2**] 02:35 PM
   Pantoprazole (Protonix) - [**2161-4-2**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Constipation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-4-3**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 79 (61 - 90) bpm
   BP: 164/74(89) {105/62(80) - 180/97(109)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,191 mL
                                                                  1,878 mL
   PO:
                                                                    150 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  4,041 mL
                                                                  1,518 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,360 mL
   Urine:
                                                                  1,900 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    518 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   87 K/uL
   68 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.0 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   25.8 %
   2.2 K/uL
        [image002.jpg]
                             [**2161-4-1**]  12:25 AM
                             [**2161-4-1**]  04:12 AM
                             [**2161-4-1**]  05:41 AM
                             [**2161-4-1**]  11:39 AM
                             [**2161-4-1**]  05:36 PM
                             [**2161-4-2**]  12:35 AM
                             [**2161-4-2**]  05:11 AM
                             [**2161-4-2**]  07:24 PM
                             [**2161-4-3**]  04:11 AM
                             [**2161-4-3**]  08:01 AM
   WBC
   4.6
   3.1
   2.2
   Hct
   29.8
   26.1
   25.1
   24.7
   26.8
   24.7
   25.1
   20.4
   25.8
   Plt
   93
   95
   87
   Cr
   0.9
   0.9
   0.8
   0.7
   Glucose
   106
   102
   77
   68
   Other labs: ALT / AST:46/42, Alk Phos / T Bili:97/0.4, Albumin:3.3
   g/dL, LDH:143 IU/L, Ca++:6.8 mg/dL, Mg++:1.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):  Hct remains stable
   except for spurious result showing 20.  Continues on PPI, carafate.
   Patient to start on clears. Continue to follow [**Hospital1 **] Hcts.
 HYPERTENSION:  Have been holding antihypertensives in setting of
   GIB.  Will continue to hold for now.
 PARKINSON'S DISEASE:  Contiues on PD meds.
 CHEST PAIN:  Check ECG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-4-2**] 05:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-04-04 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   24 Hour Events:
 EKG - At [**2161-4-3**] 11:20 AM
   - Hct stable
   - Was c/o but then developed rigidity v. worsening of parkinsons.
   Called neuro who was busy, tried cogentin, mild improvement (pt may
   have been improving anyway). Decided to monitor for the night, c/o in
   am.
   EGD [**2161-4-2**]:
   Impression:
   Esophageal nodule
   Esophageal ulcer
   Erythema, erosion and congestion in the gastroesophageal junction
   compatible with esophagitis
   Otherwise normal EGD to second part of the duodenum
   Recommendations:
   Differential includes pill, peptic esophagitis.
   Neoplasm or metastatic prostate cancer, with the latter being a more
   remote possibility.
   Continue twice daily high dose PPI (Pantoprazole 40 b.i.d.)
   Start carafate slurry b.i.d.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2161-4-4**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 66 (66 - 94) bpm
   BP: 170/84(104) {132/58(78) - 174/135(140)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 98% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,971 mL
                                                                    810 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,611 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    525 mL
   Urine:
                                                                  2,250 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,721 mL
                                                                    287 mL
   Physical Examination
   GENERAL: Pleasant, elderly man in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. Edentulous.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB, crescendo descrescendo.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: +BS. Soft, NT, ND.  No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox2 (not to date). Appropriate. CN 2-12 grossly intact.
   Preserved sensation throughout. 5/5 strength throughout. [**1-9**]+ reflexes,
   equal BL. Normal coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   112 K/uL
   9.0 g/dL
   89 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   25.5 %
   3.0 K/uL
        [image002.jpg]
                             [**2161-4-1**]  05:41 AM
                             [**2161-4-1**]  11:39 AM
                             [**2161-4-1**]  05:36 PM
                             [**2161-4-2**]  12:35 AM
                             [**2161-4-2**]  05:11 AM
                             [**2161-4-2**]  07:24 PM
                             [**2161-4-3**]  04:11 AM
                             [**2161-4-3**]  08:01 AM
                             [**2161-4-3**]  02:15 PM
                             [**2161-4-4**]  03:26 AM
   WBC
   4.6
   3.1
   2.2
   3.0
   Hct
   26.1
   25.1
   24.7
   26.8
   24.7
   25.1
   20.4
   25.8
   25.3
   25.5
   Plt
   93
   95
   87
   112
   Cr
   0.9
   0.8
   0.7
   0.8
   Glucose
   102
   77
   68
   89
   Other labs: ALT / AST:46/42, Alk Phos / T Bili:97/0.4, Albumin:3.3
   g/dL, LDH:143 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   86 year old man with Hep C cirrhosis, metastatic prostate cancer and
   history of GI bleeding, presenting with new episode of hematemesis, in
   fair condition.
   # Hematemesis: EGD with no furthur active bleeding. Hct stable
   - PPI [**Hospital1 **] per GI recs
   - Maintain two 18g PIVs BUT NO BLOOD
   - Telemetry to monitor tachycardia
   - surgery, GI, IR following
   - plan for urgent scope by GI if rebleeds as surgery not good option
   given JW.
   # Parkinsons: Acute flair yest likely in setting of holding meds for
   NPO, discussed with Dr [**Last Name (STitle) 5393**] and Neuro.
   - given benztropine for ? dystonic reaction with mild improvement but
   may have been improving anyway.
   - cannot use NGT
   - prioritize parkisons meds as pt refusing some meds, will ask daughter
   to assist with meds and orientation
   # Anemia: Stable ~25 (20 likely lab error). Due to bleeding
   - Trend hct daily
   - See above treatment plan for likely source of bleeding
   #. Fever: low grade, 100. Will check urine and CXR
   # Leukopenia, Thrombocytopenia: Likely myelosuppression secondary to
   metastatic prostate cancer, but counts are at the pt's recent baseline
   (since 5/[**2160**]).
   - Continue to trend
   # Hypertension: Home regimen (toprol, lasix, lisinopril) was held in
   order to follow tachycardia.
   - Restart lisinopril today
   # CAD: Hold aspirin.
   # Metastatic prostate cancer: Currently s/p XRT to spine.
   - Outpatient f/u
   - Management per primary oncologist
   - cont finasteride
   # Depression: Continue home celexa and trazodone.
   # Hepatitis C: Not active currently. Unclear if pt has a physician who
   manages his Hep C.
   - Outpatient follow up.
   # Atrial fibrillation: Currently in sinus rhythm.
   - Not anticoagulated given GIB
   ICU Care
   Nutrition: tolerating sips
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-31**] 11:00 PM
   20 Gauge - [**2161-4-2**] 05:46 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (and HCP) [**Name (NI) 5324**]. [**Telephone/Fax (1) 5325**].
   Code status: Full; however per daughter pt is Jehovah Witness and does
   not want blood products.
   Disposition:  Floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Mr [**Known lastname **], and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Exam notable for Tm of 99.7 BP of 169/76 HR of 80 RR of 16 with sats of
   98% on 2lpm O2 . His rigidity has improved c/w [**2161-4-3**]. His appetite
   remains poor.
   Labs notable for WBC3.0 K, HCTof 25.5 , K+ 3.0, Cr 0.7.
   Agree with plan to restart entacapone and continue sinemet at previous
   doses. He will need carafate and PPI therapy for now and no
   anticoagulation for the long term. If he should rebleed, EGD or IR
   angiography are reasonable options.
   Remainder of plan as outlined above.
   Patient is ill but stable for transition to medical floor
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2161-4-4**] 01:42 PM ------